US04397790
10.4 grams (0.34 moles) of the ethyl ester of 3-chloro-2-[(ethoxymethylphosphinyl)methyl]-benzoic acid prepared as described in Part B Step A of Example 1 was admixed with 20 ml of concentrated hydrochloric acid and 80 ml of dioxane. The resulting composition was saturated with hydrochloric acid (gas) and refluxed for 12 hours. The composition was concentrated, extracted with ether and the ether solution was dried over magnesium sulfate. The ether was evaporated and the residue was recrystallized from acetone/CH2Cl2 to give 7.5 grams (89% yield) of 3-chloro-2-[(hydroxymethylphosphinyl)methyl]-benzoic acid having a melting point of 219°-220° C.

reactant | 3-chloro-2-[(ethoxymethylphosphinyl)methyl]-benzoic acid | ClC=1C(=C(C(=O)O)C=CC1)CP(=O)COCC | C11H14ClO4P
reactant | hydrochloric acid | 20 ml | Cl | ClH
solvent | dioxane | 80 ml | O1CCOCC1 | C4H8O2
product | 3-chloro-2-[(hydroxymethylphosphinyl)methyl]-benzoic acid | 7.5 grams, 89% yield | ClC=1C(=C(C(=O)O)C=CC1)CP(=O)CO | C9H10ClO4P
